US08536165B2
B. 2-Chloro-5-nitro-3-phenylpyridine
In a schlenck tube, a mixture of 2-chloro-3-iodo-5-nitropyridine (1.76 mmol, 0.5 g), phenylboronic acid (1.94 mmol, 0.24 g), PdCl2dppf.DCM (0.18 mmol, 0.1 g), Cs2CO3 (5.28 mmol, 1.7 g) in a dioxane/water 4:1 mixture (6.5 ml) was heated at 120° C. for 4 hours, under argon atmosphere. The solvent was evaporated and the crude mixture was extracted between water and ethyl acetate. The solid residue was purified by chromatography over SiO2 eluting with hexane/dichloromethane mixtures affording 2-chloro-5-nitro-3-phenylpyridine (0.23 g, yield 55%) of the expected product.

reactant | 2-chloro-3-iodo-5-nitropyridine | 1.76 mmol, 0.5 g | ClC1=NC=C(C=C1I)[N+](=O)[O-] | C5H2ClIN2O2
reactant | phenylboronic acid | 1.94 mmol, 0.24 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | DCM | 0.18 mmol, 0.1 g | C(Cl)Cl | CH2Cl2
reactant | Cs2CO3 | 5.28 mmol, 1.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane water | O1CCOCC1.O
product | 2-chloro-5-nitro-3-phenylpyridine | 0.23 g, yield 55% | ClC1=NC=C(C=C1C1=CC=CC=C1)[N+](=O)[O-] | C11H7ClN2O2
